US06951879B2
A solution of 20 g (64.66 mmol) of 6-Methoxy-3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazole in 150 ml of acetic acid and 75 ml 62% aqueous HBr solution was heated to reflux for 70 h, subsequently cooled and taken up in ice water and extracted with tert-butylmethyleter (3×). The organic phases were washed with saturated sodium hydrogen carbonate solution (3×) and dried (Na2SO4). The residue was suspended in 350 ml boiling CH2Cl2, cooled to 3° C. and filtered to yield 15.8 g (83%) of 3-(4-Trifluoromethyl-phenyl)-benzo[d]isothiazol-6-ol, MS: 295 (M).

reactant | 6-Methoxy-3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazole | 64.66 mmol, 20 g | COC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C15H10F3NOS
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | HBr | 75 ml | Br | BrH
product | 3-(4-Trifluoromethyl-phenyl)-benzo[d]isothiazol-6-ol | 15.8 g, 83% | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)O)(F)F | C14H8F3NOS
